US05932745
4-Dimethylamino-1-phenyl-3-butene-2-one
To an ice cold solution of 1-dimethylamino-4-phenyl-2-butyne (0.5 g; prepared by the Mannich reaction of 3-phenyl-1-propyne with formaldehyde and dimethylamine as per Mornet, et.al. Bull.Soc.Chim.Fr. 1974, 206) in dichloromethane (12 ml) was added in small portions 3-chloroperoxybenzoic acid (0.52 g). After the reaction was stirred at 0° C. for 20 minutes, the mixture was passed over twenty weight equivalents of basic alumina (Brockmann Grade I, 150 mesh) and the N-oxide was eluted using a solution of 10% methanol in dichloromethane. All fractions containing the desired amine N-oxide were combined and evaporated to near dryness in vacuo. The residue was treated successively three times with small portions of methanol (ca. 10 ml) followed by evaporation to near dryness, and the volume of the solution was adjusted to 25 mL by addition of methanol. The methanolic solution of the N-oxide was heated to reflux for approximately 4 hours and cooled. The solvent was evaporated to dryness in vacuo and the residue was chromatographed over silica gel (95:5 ethyl acetate-hexanes was used as the eluant) to give upon evaporation of the solvent in vacuo the desired product as an oil. MS(+ES) m/z: 190 (M+H)+.

reactant | 1-dimethylamino-4-phenyl-2-butyne | CN(CC#CCC1=CC=CC=C1)C | C12H15N
reactant | 3-phenyl-1-propyne | C1(=CC=CC=C1)CC#C | C9H8
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | 3-chloroperoxybenzoic acid | 0.52 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 4-Dimethylamino-1-phenyl-3-butene-2-one | CN(C=CC(CC1=CC=CC=C1)=O)C | C12H15NO
